data/oMe_Silver.jsonl
{"reaction_id": "NR-076_1-C_2-CC","name": "Ganem Oxidation","level": "medium","reactants_smiles": ["C(Br)(C)(CC)","[O-][N+](CC)(CC)CC"],"products_smiles": ["C(=O)(C)(CC)"],"conditions": "","mechnism_text_description": "The Ganem oxidation is the oxidation of benzylic or allylic halides to aldehydes or ketones. The mechanism begins with the nucleophilic oxygen of the trialkylamine N-oxide attacking the electrophilic carbon of the halide in an SN2 reaction, displacing the halide and forming an alkoxyammonium salt intermediate. In the second step, a base (like triethylamine, which can be a byproduct) abstracts an alpha-proton, leading to an E2 elimination. This forms a carbon-oxygen double bond and expels triethylamine as a leaving group, resulting in the final carbonyl compound.","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O[N+](CC)(CC)CC)(C)(CC)","step_weight": 0,"rationale": "The oxygen of the N-oxide is strongly nucleophilic due to its negative polarization, enabling backside SN2 attack on the electrophilic halide carbon, which is further activated by resonance or inductive effects from C/CC, displacing the halide."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C)(CC)","step_weight": 0,"rationale": "A base abstracts the acidic α-proton adjacent to the positively charged oxygen, facilitating E2 elimination; the driving force is formation of the stable C=O bond and expulsion of neutral trialkylamine as a good leaving group."}],"description": "The Ganem oxidation converts benzylic or allylic halides into carbonyl compounds via nucleophilic substitution by an N-oxide, followed by base-induced elimination. The reaction leverages the electrophilicity of the halide carbon and the good leaving group ability of the trialkylamine, under mild, non-metal conditions."}
{"reaction_id": "NR-312_10-C(=O)OC_1-F_2-CC_3-C_4-N(C(C)C)C(C)C_5-C1CCCCC1_6-[N+](=O)[O-]_7-c2ccccc2_8-c2ccc(C(F)(F)F)cc2_9-c2cnccn2","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(F)c(CC)c(C)c(N(C(C)C)C(C)C)c(C1CCCCC1)c1O","c1([N+](=O)[O-])c(c2ccccc2)c(c2ccc(C(F)(F)F)cc2)c(c2cnccn2)c(C(=O)OC)c1I"],"products_smiles": ["c1(F)c(CC)c(C)c(N(C(C)C)C(C)C)c(C1CCCCC1)c1Oc2c([N+](=O)[O-])c(c2ccccc2)c(c2ccc(C(F)(F)F)cc2)c(c2cnccn2)c2(C(=O)OC)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(F)c(CC)c(C)c(N(C(C)C)C(C)C)c(C1CCCCC1)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1([N+](=O)[O-])c(c2ccccc2)c(c2ccc(C(F)(F)F)cc2)c(c2cnccn2)c(C(=O)OC)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2([N+](=O)[O-])c(c2ccccc2)c(c2ccc(C(F)(F)F)cc2)c(c2cnccn2)c(C(=O)OC)c2[Cu](I)Oc1c(F)c(CC)c(C)c(N(C(C)C)C(C)C)c1(C1CCCCC1)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(F)c(CC)c(C)c(N(C(C)C)C(C)C)c(C1CCCCC1)c1Oc2c([N+](=O)[O-])c(c2ccccc2)c(c2ccc(C(F)(F)F)cc2)c(c2cnccn2)c2(C(=O)OC)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
